US06869954B2
2) Preparation of 4-aminomethyl-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
To a solution of 2-cyclopropylmethyl-6-(3-fluoro-4-methoxypheyl)-4-phthalimidomethyl-2H-pyridazin-3-one (190 mg, 0.43 mmol) in methanol (5 mL) was added hydrazine monohydrate (110 mg, 2.20 mmol), and the mixture was heated under reflux for 2 hours. Methanol was distilled off, and chloroform (20 mL) was added to the residue. The mixture was successively washed with water (10 mL) and brine (10 mL) in this order, and was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by preparative thin-layer chromatography on silica gel [developing solvent: chloroform/10% w/v solution of methanol in ammonia (20/1)] to yield the title compound as yellow crystals (130 mg, 97.8%).

reactant | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxypheyl)-4-phthalimidomethyl-2H-pyridazin-3-one | 0.43 mmol, 190 mg | C1(CC1)CN1N=C(C=C(C1=O)CN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=C(C=C2)OC)F | C24H20FN3O4
reactant | hydrazine monohydrate | 2.20 mmol, 110 mg | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 4-aminomethyl-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | 130 mg, 97.8% | NCC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1CC1)=O | C16H18FN3O2
